US06620841B1
To a solution of 4-fluorobenzoylchloride (1.74 g, 11 mmol) in dichloromethane (2 ml) was added dropwise a solution of boron trifluoride diethyletherate (3.4 ml, 27.6 mmol) in dichloromethane (20 ml). The mixture was stirred for 10 minutes at room temperature. Subsequently, to the mixture was added dropwise a solution of 1-benzenesulfonylpyrrole (1.9 g, 9.2 mmol) in accordance with a method described in Example 8 (1) in dichloromethane (5 ml). The mixture was stirred for 12 hours. The reaction mixture was poured into ice-water and extracted with ethylacetate. The extract was washed with water and dried. The solvent was evaporated. The obtained crude crystal was recrystallized from isopropylether to give 1-benzenesulfonyl-2-(4-fluorobenzoyl)pyrrole (1.0 g) as a crystal. Yield: 19.8%.

reactant | 4-fluorobenzoylchloride | 11 mmol, 1.74 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | 1-benzenesulfonylpyrrole | 9.2 mmol, 1.9 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=C1 | C10H9NO2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-benzenesulfonyl-2-(4-fluorobenzoyl)pyrrole | 1.0 g, Yield: 19.8% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=C1)C(C1=CC=C(C=C1)F)=O | C17H12FNO3S
